Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:12],4.370406097669997
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:11].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])/[C:9]([H:10])=[C:12]/[C:13]([H:14])([H:15])[H:16],1.5817746621000002
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[C:2]#[C:3],8.021081535
[H:1][C:2](=[C:3]=[O:4])[C:9]([C:7](=[C:5][H:6])[H:8])([H:10])[H:11]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[C:9]1([H:10])[H:11],-0.31377256010000004
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][O:2][C:3][H:4],5.59593587495
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:2]([H:3])=[C:7]([H:8])[H:9].[O:1][C:5](=[O:4])[H:6],4.53959035178
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-1.6078741820200002
[C:9]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:10]#[C:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][C:11]([H:12])([H:13])[H:14],-5.65638449719
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-1.76477317687
[C:5]([H:6])[H:7].[H:1][O:2][C:3](=[C:4])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-7.752625182589999
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.48631821935
[H:4].[O:1]=[C:2]=[C:3]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.42745655534
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]#[C:8][H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]=[C:8]([H:9])[H:10],-2.7347584637
[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2]([C:3](=[O:4])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.8471757796
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:7].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:8][H:9])[C:10]([H:11])([H:12])[H:13],1.82962710698
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[H:5].[O:1]=[C:2]([H:3])[C:4][O:6][C:7]#[C:8][H:9],5.010101594630001
[H:5].[O:1][O:2][C:3](=[C:4])[C:6]([H:7])([H:8])[H:9]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9],-4.35494023552
[C:7]([H:8])[O:9][H:10].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10],-6.310431114659999
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:12]([C:9]([H:10])[H:11])([H:13])[H:14]>>[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-4.12410670678
[H:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-2.15587108305
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],4.44317747865
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][O:3][C:4][C:6]([H:7])([H:8])[O:9][H:10].[H:5],4.86735340555
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.2394242
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.730462425
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-0.21226244432
[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[O:5][C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.39375284916
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]\[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.7778305122599998
[H:10].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[H:9]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-3.26570983921
[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[O:1]=[O:2]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-2.03995990877
